US04894386
A solution of methyl indole-5-carboxylate, (21.7 g), p-toluenesulfonyl chloride (47.3 g), and K2CO3 (68.4 g) in 2-butanone (310 ml) was refluxed under a nitrogen atmosphere for 18 hr. Additional p-toluenesulfonyl chloride (12.0 g) and K2CO3 (17 g) was added to the reaction mixture and reflux was continued for 18 hr. The reaction mixture was filtered hot and the filtrate was evaporated to give an ivory solid that was tritrated with hexane to give methyl 1-(4-methylphenylsulfonyl)indole-5-carboxylate (23.0 g, 56%) as an ivory solid: NMR (80 MHz, CDCl3): 2.34 (s, 3H, ArCH3), 3.91 (s, 3H, OCH3), 6.7 (d, 1H, H2 -indole).

reactant | methyl indole-5-carboxylate | 21.7 g | N1C=CC2=CC(=CC=C12)C(=O)OC | C10H9NO2
reactant | p-toluenesulfonyl chloride | 47.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | K2CO3 | 68.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | p-toluenesulfonyl chloride | 12.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | K2CO3 | 17 g | C(=O)([O-])[O-].[K+].[K+]
reactant | hexane | CCCCCC | C6H14
solvent | 2-butanone | 310 ml | CC(CC)=O | C4H8O
product | methyl 1-(4-methylphenylsulfonyl)indole-5-carboxylate | 23.0 g, 56% | CC1=CC=C(C=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)C(=O)OC | C17H15NO4S
